US07045539B2
4-Bromo-6-methoxy-2-(2-isopropyl-3-methoxy-phenyl)-benzothiazole
The procedure was the same with 4-bromo-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole except using 2-isopropyl-3-methoxy-benzoyl chloride instead of p-anisoyl chloride. Mass spec: MH+=392.

reactant | 4-bromo-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole | BrC1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)OC)OC | C15H12BrNO2S
reactant | 2-isopropyl-3-methoxy-benzoyl chloride | C(C)(C)C1=C(C(=O)Cl)C=CC=C1OC | C11H13ClO2
product | 4-Bromo-6-methoxy-2-(2-isopropyl-3-methoxy-phenyl)-benzothiazole | BrC1=CC(=CC2=C1N=C(S2)C2=C(C(=CC=C2)OC)C(C)C)OC | C18H18BrNO2S
